US08669266B2
(iii) 4-{(S)-4-Benzyloxy-2-[(4-hydroxy-7-methyl-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid butyl ester
To a solution of 1 g of 4-Hydroxy-7-methyl-quinoline-2-carboxylic acid and 1.8 g of 4-((S)-2-Amino-4-benzyloxy-butyryl)-piperazine-1-carboxylic acid butyl ester trifluoroacetate in 12 ml of DMF, 566 mg of NEM, 1.1 g of HOBT and 1.4 g of EDC was added and the reaction mixture was stirred for 16 h at RT. Then, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was purified by chromatography on silica gel eluting with a gradient of n-heptane/ethyl acetate. The fractions containing the product were combined and the solvent evaporated under reduced pressure. Yield: 650 mg.

reactant | 4-Hydroxy-7-methyl-quinoline-2-carboxylic acid | 1 g | OC1=CC(=NC2=CC(=CC=C12)C)C(=O)O | C11H9NO3
reactant | 4-((S)-2-Amino-4-benzyloxy-butyryl)-piperazine-1-carboxylic acid butyl ester trifluoroacetate | 1.8 g | FC(C(=O)O)(F)F.C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCOCC1=CC=CC=C1)N)=O
reactant | HOBT | 1.1 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1.4 g
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-{(S)-4-Benzyloxy-2-[(4-hydroxy-7-methyl-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCOCC1=CC=CC=C1)NC(=O)C1=NC2=CC(=CC=C2C(=C1)O)C)=O | C31H38N4O6
